US07560456B2
Sodium hydride (0.09 g, 60% dispersion in mineral oil) was added to a solution of 4-trifluoromethyl-3-pyridinecarboxamide (0.40 g) in N,N-dimethylformamide at 20° C. and stirred for an hour. Benzyl isothiocyanate (0.31 ml) was added to the mixture and stirred at 20° C. for 2 hours, then allyl bromide (0.30 ml) added with stirring at 20° C. for 5 hours. Ethyl acetate and water were added and the organic phase dried (magnesium sulfate), evaporated and purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (3:1) to give 1-benzyl-S-(2-propenyl)-3-(4-trifluoromethyl-3-pyridylcarbonyl)isothiourea (0.55 g, Compound A-724).

reactant | Sodium hydride | 0.09 g | [H-].[Na+]
reactant | 4-trifluoromethyl-3-pyridinecarboxamide | 0.40 g | FC(C1=C(C=NC=C1)C(=O)N)(F)F | C7H5F3N2O
reactant | Benzyl isothiocyanate | 0.31 ml | C(C1=CC=CC=C1)N=C=S | C8H7NS
reactant | allyl bromide | 0.30 ml | C(C=C)Br | C3H5Br
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyl-S-(2-propenyl)-3-(4-trifluoromethyl-3-pyridylcarbonyl)isothiourea | 0.55 g | C(C1=CC=CC=C1)NC(SCC=C)=NC(=O)C=1C=NC=CC1C(F)(F)F | C18H16F3N3OS
